US04554279
C. 5-(n-Decoxy)-6-methoxy-8-(1-methyl-4-phthalimidobutylamino)quinoline
A stirred mixture of 3.65 g of 8-amino-5-decoxy-6-methoxyquinoline and 3.5 g of 4-bromo-1-phthalimidopentane was maintained at 140°-145° while 1 g of triethylamine was added in portions during 1.5 hr. Five more increments of 4-bromo-1-phthalimidopentane (3 g) and triethylamine (1 g) were added at 1.5 hr intervals in the usual manner. The mixture was allowed to cool and extracted with diethyl ether (ca. 300 ml). Treatment of the extract with diethyl ether-hydrochloric acid gave a red oil. The oil was dissolved in chloroform (200 ml) washed with dilute sodium hydroxide (2×30 ml) and water, dried (potassium carbonate) passed through a silica column and concentrated to give 3 g of phthalimide derivative as a red oil. This material was used without further purification.

reactant | 8-amino-5-decoxy-6-methoxyquinoline | 3.65 g | NC=1C=C(C(=C2C=CC=NC12)OCCCCCCCCCC)OC | C20H30N2O2
reactant | 4-bromo-1-phthalimidopentane | 3.5 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | 4-bromo-1-phthalimidopentane | 3 g | BrC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C13H14BrNO2
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(n-Decoxy)-6-methoxy-8-(1-methyl-4-phthalimidobutylamino)quinoline | 3 g | C(CCCCCCCCC)OC1=C2C=CC=NC2=C(C=C1OC)NC(CCCN1C(C=2C(C1=O)=CC=CC2)=O)C | C33H43N3O4
